US08455522B2
Step 2: Synthesis of 1-(5-bromopyridin-3-yl)-2,2,2-trifluoroethanamine
A solution of HCl (4 M in dioxane, 0.557 m, 2.23 mmol) was added to a solution of N-(1-(5-bromopyridin-3-yl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide (400 mg, 1.114 mmol) in MeOH (2.5 mL) at room temperature. The resulting mixture was stirred at this temperature for overnight. The solvent was removed in vacuum, and the residue was treated with saturated NaHCO3 solution and extracted with ethyl acetate. The combined extracts were dried over anhydrous Na2SO4. After filtration and concentration, the title compound was obtained (230 mg). ESI-MS m/z: 256.9 [M+1]+; Retention time 1.02 min;

reactant | HCl | 2.23 mmol, 4 M | Cl | ClH
reactant | N-(1-(5-bromopyridin-3-yl)-2,2,2-trifluoroethyl)-2-methylpropane-2-sulfinamide | 1.114 mmol, 400 mg | BrC=1C=C(C=NC1)C(C(F)(F)F)NS(=O)C(C)(C)C | C11H14BrF3N2OS
solvent | MeOH | 2.5 mL | CO | CH4O
product | 1-(5-bromopyridin-3-yl)-2,2,2-trifluoroethanamine | BrC=1C=C(C=NC1)C(C(F)(F)F)N | C7H6BrF3N2
